US05539115
The procedure of Referential Example 11 was followed except for use of 38.3 g (0.1 mol) of 2-(4-acetylphenyl)-5-decylcarbonyloxypyrimidine in place of 35.5 g of 2-(4-acetylphenyl)-5-decyloxypyrimidine, forming an asymmetric hydrolyzate by use of an enzyme to obtain 13 g of (+)-2-(4-(1-hydroxyethyl)phenyl)-5-decylcarbonyloxypyrimidine (II-a-12), [α]D20 =+24.5° (c=1, chloroform).

reactant | 2-(4-acetylphenyl)-5-decylcarbonyloxypyrimidine | 0.1 mol, 38.3 g | C(C)(=O)C1=CC=C(C=C1)C1=NC=C(C=N1)OC(=O)CCCCCCCCCC | C23H30N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-2-(4-(1-hydroxyethyl)phenyl)-5-decylcarbonyloxypyrimidine | 13 g | OC(C)C1=CC=C(C=C1)C1=NC=C(C=N1)OC(=O)CCCCCCCCCC | C23H32N2O3
